US08580972B2
Example 8 of the European Patent EP 1710241 B1 also describes an alternative process for the synthesis of the lactam (VI), see Scheme 4. In this example, (5-chloro-2-phenoxyphenyl)acetic acid methyl ester (compound VIIIa) is reacted with methyl formate in the presence of potassium tert-butoxide to give 2-(5-chloro-2-phenoxyphenyl)-3-hydroxyacrylic acid methyl ester (compound IXa, E/Z mixture 9:1), which is directly cyclized with pyrophosphoric acid to obtain methyl 2-chlorodibenzo[b,f]oxepin-11-carboxylate (compound Xa), referred to us 8-chlorodibenzo[b,f]oxepin-10-carboxylic acid methyl ester in EP 1710241 B1, with 85% yield. This compound is then reacted with nitromethane in the presence of tert-butyl-tetramethylguanidine to give methyl 2-chloro-10-nitromethyl-10,11-dihydrodibenzo[b,f]oxepine-11-carboxylate (compound XIa), referred to us 8-chloro-1′-nitromethyl-10,11-dihydrodibenzo[b,f]oxepine-10-carboxylic acid methyl ester in EP 1710241 B1, with a trans to cis ratio of 8:1, which is directly hydrogenated in the presence of a sponge nickel catalyst to give methyl 10-aminomethyl-2-chloro-10,11-dihydrodibenzo[b,f]oxepine-11-carboxylate (compound XIIa), referred to us 11-aminomethyl-8-chloro-10,11-dihydrodibenzo[b,f]oxepine-10-carboxylic acid methyl ester in EP 1710241 B1, which after treatment with potassium tert-butoxide and dimethyl sulphate, is converted into the lactam (VIa) with an overall yield of 81% from compound (Xa), but predominantly corresponding to the undesired cis-isomer (approximately 85:15 ratio with respect to the trans-isomer), being therefore necessary to carry out one of the above described low-yield processes for the conversion of undesired cis-(VI) to trans-(VI).

reactant | 8-chlorodibenzo[b,f]oxepin-10-carboxylic acid methyl ester | COC(=O)C1=CC2=C(OC3=C1C=C(C=C3)Cl)C=CC=C2 | C16H11ClO3
reactant | tert-butyl-tetramethylguanidine | C(C)(C)(C)N=C(N(C)C)N(C)C | C9H21N3
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
product | methyl 2-chloro-10-nitromethyl-10,11-dihydrodibenzo[b,f]oxepine-11-carboxylate | ClC1=CC2=C(OC3=C(C(C2C(=O)OC)C[N+](=O)[O-])C=CC=C3)C=C1 | C17H14ClNO5
